US05334712
4-(4'-Cyclohexylcyclohexylidene)cyclohexanone Dimethyl ketal
A catalytic mount of p-toluenesulfonic acid (26 mg) was added to a solution of 4-(4'-cyclohexylcyclohexylidene)cyclohexane (2", 2"-dimethyltrimethylene)ketal (5.56 g) in 1:1 methylene chloride-methanol (400 ml). TLC after three hours indicated the reaction to be about 50% complete. Additional methanol (200 ml) was added and the reaction checked by TLC after another two hours. About 10% of starting material remained. The reaction was worked up at this time by the addition of more CH2Cl2 followed by saturated aqueous NaHCO3 solution. The mixture was shaken and the layers were separated. The aqueous layer was extracted two more times with CH2Cl2, the pooled CH2Cl2 extracts were washed with brine, dried (Na2SO4), filtered, and concentrated to a solid. This dimethyl ketal was used without further purification.

reactant | p-toluenesulfonic acid | 26 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 4-(4'-cyclohexylcyclohexylidene)cyclohexane | C1(CCCCC1)C1CCC(CC1)=C1CCCCC1 | C18H30
reactant | methylene chloride methanol | 400 ml | C(Cl)Cl.CO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | methanol | 200 ml | CO | CH4O
product | 4-(4'-Cyclohexylcyclohexylidene)cyclohexanone Dimethyl ketal | COC1(CCC(CC1)=C1CCC(CC1)C1CCCCC1)OC | C20H34O2
